US07026335B2
Preparation of 4-cyclohexyl-4-(thiazol-2-ylaminomethyl)-piperidine-1-carboxylic acid tert-butyl ester (12):
4-Cyclohexyl-4-formyl-piperidine-1-carboxylic acid tert-butyl ester, 3, (296 mg, 1.0 mmol) and 2-aminothiazole (103 mg, 1.0 mmol) are dissolved in toluene (15 mL), and the mixture was refluxed using a Dean-Stark apparatus overnight. The solution is then cooled to room temperature and sodium triacetoxyborohydride added. The reaction is stirred at room temperature for three hours and then diluted with ethyl acetate. The reaction mixture is washed with aqueous sodium bicarbonate and brine. The solvent is removed under reduced pressure and the residue purified by preparative HPLC to afford 312 mg (82% yield) of the desired compound. MS (ESI) m/z 380 (M+H+)

reactant | 4-Cyclohexyl-4-formyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=O)C1CCCCC1 | C17H29NO3
reactant | 2-aminothiazole | 1.0 mmol, 103 mg | NC=1SC=CN1 | C3H4N2S
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-cyclohexyl-4-(thiazol-2-ylaminomethyl)-piperidine-1-carboxylic acid tert-butyl ester | 312 mg, 82% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC=1SC=CN1)C1CCCCC1 | C20H33N3O2S
